US07435833B2
4-Amino-azepane-1-carboxylic acid tert-butyl ester
A solution of N-(tert-butoxycarbonyl)-hexahydro-1H-azepin-4-one (0.5 g, 2.34 mmoles), O-benzylhydroxylamine hydrochloride (0.41 g, 2.57 mmoles) and ammonium acetate (0.45 g, 5.86 mmoles) in methanol (10 mL) was refluxed for 1.2 hours. The solvent was evaporated in vacuo and the crude oxime was purified by flash column chromatography (hexanes:ethyl acetate 100:0 to 50:50). The product was taken in 4N NH3 in methanol (10 mL) and added 10% by weight Pd/C (100 mg) and stirred over H2 at balloon pressure for twelve hours. The reaction was filtered through a pad of celite and filtrate evaporated in vacuo to provide the title compound.

reactant | N-(tert-butoxycarbonyl)-hexahydro-1H-azepin-4-one | 2.34 mmoles, 0.5 g | C(C)(C)(C)OC(=O)N1CCC(CCC1)=O | C11H19NO3
reactant | O-benzylhydroxylamine hydrochloride | 2.57 mmoles, 0.41 g | Cl.C(C1=CC=CC=C1)ON
reactant | ammonium acetate | 5.86 mmoles, 0.45 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
product | 4-Amino-azepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CCC1)N | C11H22N2O2
